US06534250B1
Preparation of 5-Chlorosulfonylbenzocyclobutenone (I-7)
Benzocyclobutenone (2.36 g, 0.02mol) was added slowly to a strongly stirred chlorosulfuric acid (3 mL) in chloroform (10 mL) solution. After the addition was done, the reaction mixture was stirred for 5 hours. Then the chloroform was evaporated, and the residue was precipitated in water yielding fine pink crystals. m.p. 80° C.; IR (KBr, cm−1): 1762; UV (λmax, methanol) 272 nm.

reactant | Benzocyclobutenone | 0.02mol, 2.36 g | C1(CC2=C1C=CC=C2)=O | C8H6O
reactant | chlorosulfuric acid | 3 mL | S(O)(=O)(=O)Cl | ClHO3S
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Chlorosulfonylbenzocyclobutenone | ClS(=O)(=O)C=1C=CC2=C(C(C2)=O)C1 | C8H5ClO3S
